US04453005
Six grams biphenylcarboxaldehyde, 10.23 g 5-carboxypentyl triphenylphosphorane bromide, 5.8 g anhydrous K2CO3 and 130 mg 18-Crown-6 were suspended in 240 mL dry tetrahydrofuran. The mixture was heated and stirred at reflux for 7 days, diluted with 200 mL H2O, extracted with EtOAc (5×200 mL). The EtOAc extract was dried (Na2SO4) and concentrated, the residue was taken up in methanol (200 mL) treated with 1 equivalent BF3.OEt2 and the methyl esters of the cis and trans acids separated by chromatography (yield 59%). The esters were hydrolyzed upon dissolving in MeOH (100 mL) and treatment with 1N NaOH (50 mL). Acidification resulted in precipitation of the corresponding acids cis-6-(4'-biphenyl)hex-5-enoic acid, m.p. 107°-109° and trans-6-(4'-biphenylyl)hex-5-enoic acid, m.p. 116°-118°.

reactant | biphenylcarboxaldehyde | Six grams | C=1(C(=CC=CC1)C=O)C1=CC=CC=C1 | C13H10O
reactant | 5-carboxypentyl triphenylphosphorane bromide | 10.23 g | [Br-].C(=O)(O)CCCCCP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | K2CO3 | 5.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-Crown-6 | 130 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | BF3.OEt2 | 1 equivalent | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
solvent | H2O | 200 mL | O | H2O
product | trans-6-(4'-biphenylyl)hex-5-enoic acid | yield 59% | C1(=CC=CC=C1)C1=CC=C(C=C1)/C=C/CCCC(=O)O | C18H18O2
